US07049438B2
4-(benzofuran-7-ylamino)-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline dihydrochloride
Using an analogous procedure to that described in Example 5, 4-chloro-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline was reacted with 7-aminobenzofuran to give the title compound, a portion of which was treated with a saturated methanolic ammonia solution. The mixture was filtered and the filtrate was evaporated to give the free base; NMR Spectrum: (CDCl3) 2.15–2.35 (m, 6H), 2.32 (s, 3H), 2.92 (m, 2H), 3.9 (s, 3H), 4.6 (m, 1H), 6.5 (d, 1H), 6.8 (d, 1H), 6.85 (d, 1H), 7.25–7.4 (m, 2H), 7.68 (d, 1H), 8.58 (d, 1H), 8.6 (s, 1H), 10.25 (br s, 1H); Mass Spectrum: M+H+ 405.

reactant | 4-chloro-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline | ClC1=NC=NC2=CC(=CC(=C12)OC1CCN(CC1)C)OC | C15H18ClN3O2
reactant | 7-aminobenzofuran | NC1=CC=CC=2C=COC21 | C8H7NO
product | 4-(benzofuran-7-ylamino)-7-methoxy-5-(N-methylpiperidin-4-yloxy)quinazoline dihydrochloride | Cl.Cl.O1C=CC2=C1C(=CC=C2)NC2=NC=NC1=CC(=CC(=C21)OC2CCN(CC2)C)OC | InChI=1S/C23H24N4O3.2ClH/c1-27-9-6-16(7-10-27)30-20-13-17(28-2)12-19-21(20)23(25-14-24-19)26-18-5-3-4-15-8-11-29-22(15)18;;/h3-5,8,11-14,16H,6-7,9-10H2,1-2H3,(H,24,25,26);2*1H
